US06066642
2'-Hydroxy-5'-methoxyacetophenone (4.1 g, 22 mmole) and cinnamaldehyde (3.35 g, 25 mmole) were dissolved in minimum methanol (2.5 mL). Concentrated sodium hydroxide (12.5 mL, 50%) was added, and the mixture was kept on ice for 8 hr. The resultant solid was suspended in water and acidified using HCl (4N). The oil that separated was dissolved in ethanol and crystallized from ethanol/water to give 1-(2-hydroxy-5-methylphenyl)-5-phenylpenta-2,4-dien-1-one (1.2 g) as red-brown powder. Mass (CI--NH3) m/z 281 (M++1, base). 1H NMR (CDCl3).3.9(s, 3H, CH3),6.95-7.8(m, 12H). The above compound (170 mg, 0.6 mmole) was dissolved in a mixture of ethanol (3.5 mL) and acetone (4 mL). Sodium hydroxide 1N (1 mL) and hydrogen peroxide (1 mL, 35%) were added, and the solution was stirred 6 hr. at room temperature. The mixture was precipitated by adding water and HCl and purified on preparative TLC (petroleum ether-ethyl acetate) to give compound 15, mp 160-163° C. mass (CI NH3) m/z 297(M++1,base). 1H NMR (CDCl3) 3.9(s,3H,CH3), 4.45(d,J=12 Hz,1H), 4.8(m,1H), 6.55(dd,1H), 6.9-7.6(m,9H).

reactant | 2'-Hydroxy-5'-methoxyacetophenone | 22 mmole, 4.1 g | OC1=C(C=C(C=C1)OC)C(C)=O | C9H10O3
reactant | cinnamaldehyde | 25 mmole, 3.35 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | sodium hydroxide | 12.5 mL | [OH-].[Na+]
reactant | HCl | 4N | Cl | ClH
reactant | methanol | 2.5 mL | CO | CH4O
solvent | water | O | H2O
product | 1-(2-hydroxy-5-methylphenyl)-5-phenylpenta-2,4-dien-1-one | 1.2 g | OC1=C(C=C(C=C1)C)C(C=CC=CC1=CC=CC=C1)=O | C18H16O2
